US08022062B2
2-[4-(3,3-Dimethyl-butyryl)-benzyl]-isoindole-1,3-dione:
Add 4-(3,3-dimethyl-butyryl)-benzyl bromide (1 g, 3.731 mmol) to a stirred suspension of potassium phthalimide (0.705 g, 3.805 mmol) in anhydrous DMF (20 mL). Stir the mixture overnight at room temperature. Dilute with EtOAc and wash twice with ice-cold water. Dry the organic layer over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting sequentially with hexane and hexane/EtOAc (19:1, 4:1) to provide the desired intermediate as oil (1.24 g, 100%).

reactant | 4-(3,3-dimethyl-butyryl)-benzyl bromide | 3.731 mmol, 1 g | CC(CC(=O)C1=CC=C(CBr)C=C1)(C)C | C13H17BrO
reactant | potassium phthalimide | 3.805 mmol, 0.705 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[4-(3,3-Dimethyl-butyryl)-benzyl]-isoindole-1,3-dione | 1.24 g, 100% | CC(CC(=O)C1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1)(C)C | C21H21NO3
